US08486984B2
13.1 6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine
6,8-Dichloro-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-ylamine (275 mg, 1.07 mmol) and propionaldehyde (81 μl, 1.12 mmol) were dissolved in tetrahydrofuran (25 ml). Acetic acid (90 μl, 1.6 mmol) and sodium trisacetoxyborohydride (340 mg, 1.6 mmol) were sequentially added to the reaction mixture and stirred for 1 hour at room temperature. The reaction mixture was concentrated and the residue was dissolved in a 1 M NaOH solution (20 ml) and ethyl acetate (20 ml). The aqueous phase was extracted once more with ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered, and evaporated to dryness to yield the pure product (295 mg, 92%).

reactant | 6,8-Dichloro-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-ylamine | 1.07 mmol, 275 mg | ClC1=C(C(=CC=2C3CNCC3CCC21)Cl)N | C12H14Cl2N2
reactant | propionaldehyde | 1.12 mmol, 81 μl | C(CC)=O | C3H6O
reactant | Acetic acid | 1.6 mmol, 90 μl | C(C)(=O)O | C2H4O2
reactant | sodium trisacetoxyborohydride | 1.6 mmol, 340 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine | 295 mg, 92% | ClC1=C(C(=CC=2C3CN(CC3CCC21)CCC)Cl)N | C15H20Cl2N2
